US07501411B2
Step 2: 4-(4-tert-Butyl-piperazin-1-yl)-phenylamine
1-tert-Butyl-4-(4-nitro-phenyl)-piperazine (348 mg, 1.32 mmol) is dissolved in MeOH (10 mL) and tin (II) dichloride dihydrate (1.08 g, 4.79 mmol) is added. The mixture is cooled using a water bath and conc. HCl is added (3 mL). The reaction is stirred at 40° C. overnight. After removing the methanol, the resultant solution is basified using conc. NaOH (pH 11). The water phase is extracted with diethyl ether (3×) and the organic layers combined, dried over MgSO4, filtered, concentrated in vacuo to afford the title compound (308 mg, 99%) which is used in the next step without further purification. LCMS: Rt 2.16 min (87%)

reactant | 1-tert-Butyl-4-(4-nitro-phenyl)-piperazine | 1.32 mmol, 348 mg | C(C)(C)(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H21N3O2
reactant | tin (II) dichloride dihydrate | 4.79 mmol, 1.08 g | O.O.[Sn](Cl)Cl
reactant | HCl | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(4-tert-Butyl-piperazin-1-yl)-phenylamine | 308 mg, 99% | C(C)(C)(C)N1CCN(CC1)C1=CC=C(C=C1)N | C14H23N3
